US04044139
Step 1. Preparation of 1,2-bis[4-(3-methylbenzoyl)-phenoxy]ethane.
To a stirred suspension of anhydrous aluminum chloride (24 g) in 300 ml dry 1,2-dichloroethane is added 1,2-diphenoxyethane (17.8 g, 0.083 mole) at room temperature. To this mixture is added over a period of 30 minutes m-toluoyl chloride (27 g, 0.17 mole). The temperature of the reaction rises to 40° (all temperatures are Centigrade) and hydrogen chloride gas evolves from the mixture. Following the addition of the m-toluoyl chloride the reaction is externally heated to 65° plus or minus 3°. This temperature and stirring are maintained for 22 hours. The mixture is then allowed to cool to room temperature and poured on 1 kg of crushed ice to destroy the aluminum chloride complex. The ice is allowed to melt and the water separates from the organic layer. The latter is washed twice with 200 ml of 10% hydrochloric acid, three times with water and the solvent removed by distillation. The residual crude crystals are crystallized from dichloroethane, yield 15.9 g (43%) mp 164° - 167°. Calculated for C30H26O4 : C, 79.98%; H, 5.82%. Found: C, 79.65%; H, 5.88%.

reactant | aluminum chloride | 24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-diphenoxyethane | 0.083 mole, 17.8 g | O(C1=CC=CC=C1)CCOC1=CC=CC=C1 | C14H14O2
reactant | m-toluoyl chloride | 0.17 mole, 27 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | hydrogen chloride | Cl | ClH
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 1,2-bis[4-(3-methylbenzoyl)-phenoxy]ethane | CC=1C=C(C(=O)C2=CC=C(OCCOC3=CC=C(C=C3)C(C3=CC(=CC=C3)C)=O)C=C2)C=CC1 | C30H26O4
